US07166635B2
3-[(3,4-DICHLOROPHENYL)IMINO]-1,3-DIHYDRO-2H-INDOL-2-ONE:
A mixture of 1H-indole-2,3-dione (10.3 g, 70 mmol), 3,4-dichloroaniline (17.0 g, 70 mmol) was heated at 75° C. for 2 hours in a tightly sealed round bottom flask under argon and cooled to room temperature. The solid was recrystallized from CH2Cl2, giving the desired product (19.4 g, 90%).

reactant | 1H-indole-2,3-dione | 70 mmol, 10.3 g | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | 3,4-dichloroaniline | 70 mmol, 17.0 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
product | 3-[(3,4-DICHLOROPHENYL)IMINO]-1,3-DIHYDRO-2H-INDOL-2-ONE | 19.4 g, 90% | ClC=1C=C(C=CC1Cl)N=C1C(NC2=CC=CC=C12)=O | C14H8Cl2N2O
